US04442115
A solution of 1-benzyl-2'-benzyloxy-1H-tetrazole-5-carboxanilide (2.0 g) in glacial acetic acid (100 ml) was hydrogenated at 53° C. and 4.1 kg/cm2 for 18.5 hours, using a catalyst of palladium on charcoal (5% w/w). The mixture was filtered and the filtrate was evaporated at 40° C. in vacuo. The resulting solid was dissolved in a minimum volume of aqueous ammonia solution (2 N). The solution was filtered and then acidified with dilute hydrochloric acid (2 N). The resulting solid was filtered off, dried and recrystallised from aqueous dimethylformamide to give 2'-hydroxytetrazole-5-carboxanilide (0.45 g), m.p. 220°-223° C.

reactant | 1-benzyl-2'-benzyloxy-1H-tetrazole-5-carboxanilide | 2.0 g | C(C1=CC=CC=C1)N1N=NN=C1C(=O)NC1=C(C=CC=C1)OCC1=CC=CC=C1 | C22H19N5O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | [Pd] | Pd
product | 2'-hydroxytetrazole-5-carboxanilide | 0.45 g | OC1=C(NC(=O)C2=NN=NN2)C=CC=C1 | C8H7N5O2
